US09447078B2
A mixture of (E)-N-(3-(5-(2-cyclohexylvinyl)furan-2-yl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide (0.11 g, 0.319 mmol) and Pd/C (10% wt, 0.037 g) in EtOAc (10 mL) was degassed by alternating vacuum/H2 three times and then stirred under H2 atmosphere at room temperature for 40 hrs, filtered through Celite and concentrated under reduced pressure to give N-(3-(5-(2-cyclohexylethyl)tetrahydrofuran-2-yl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide which was used directly in the next step without additional purification.

reactant | (E)-N-(3-(5-(2-cyclohexylvinyl)furan-2-yl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | 0.319 mmol, 0.11 g | C1(CCCCC1)/C=C/C1=CC=C(O1)C(CCNC(C(F)(F)F)=O)O | C17H22F3NO3
catalyst | Pd/C | [Pd] | Pd
product | N-(3-(5-(2-cyclohexylethyl)tetrahydrofuran-2-yl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | C1(CCCCC1)CCC1CCC(O1)C(CCNC(C(F)(F)F)=O)O | C17H28F3NO3
